data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03026.json
{"doi": "10.1021_acs.orglett.3c03026", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical oxidative [3+2] cycloaddition of styrenes with 4-N-Boc-aminophenols to construct 5-aminocoumarans (2,3-dihydrobenzofurans) in an undivided cell", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis", "direct_SET"], "electrochemical_role": "Anodic single-electron oxidation of 4-N-Boc-aminophenol generates a phenoxyl/aryl-N radical (delocalized); cathode reduces protons to H2", "key_intermediates": [{"name": "Phenoxyl radical from 2a (after -e-, -H+)", "smiles": "[O]c1ccc(NC(=O)OC(C)(C)C)cc1", "role": "transient"}, {"name": "Delocalized carbon-centered (ortho) radical / quinone-imine-like radical II", "smiles": null, "role": "reactive"}, {"name": "Benzylic radical adduct III after addition to styrene 1a", "smiles": null, "role": "reactive"}, {"name": "Benzylic carbocation IV after second SET oxidation", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes 4-N-Boc-aminophenol (2a) by SET (with H+ loss) to a phenoxyl radical I that delocalizes to ortho-C radical II; II adds to styrene 1a to give benzylic radical III, which undergoes a second anodic SET to cation IV; intramolecular O-attack closes the dihydrobenzofuran (loss of H+), while H+ is reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction fully inhibited; HRMS adducts 4a/4b corresponding to intermediates II and III detected"}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction fully inhibited; HRMS adducts 5a/5b corresponding to intermediates II and III detected"}, {"name": "Cyclic voltammetry of 1a and 2a", "smiles": null, "purpose": "redox_probe", "observation": "Onset oxidation potentials ~+1.15 V (1a) vs ~+0.55 V (2a); 2a is preferentially oxidized at the anode"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Unsuccessful substrates (electron-poor vinylarenes 1A-1D, 2-halo aminophenols 2A/2B, N-unprotected/NMe2/NHAc aminophenols 2C-2E, and p-methoxyphenol 2F) support the requirement for an easily oxidized N-protected aminophenol that generates a stabilized delocalized radical. No catalyst, oxidant, or sacrificial reagent needed; H2 is the only byproduct."}
